US07807709B2
c. 3-(3-Methoxy-propoxy)-4-methyl-benzoic acid
A solution of 3-(3-methoxy-propoxy)-4-methyl-benzoic acid methyl ester (7.12 g, 32.86 mmol) and NaOH (1 N in water, 100 mL, 100 mmol) in EtOH (100 mL) is refluxed for 1 h. The reaction mixture is allowed to reach RT, and the solvent is concentrated under reduced pressure. The residue is dissolved in water (200 mL) and washed with ether (50 mL×3). The pH is adjusted to 2 by addition of cc HCl and the aqueous layer extracted with AcOEt (150 mL×2). The combined organic extracts are dried over Na2SO4, filtered and concentrated in vacuo. The crude material is recrystallized in diethyl ether/hexane to afford the desired title product. TLC, Rf (hexane/AcOEt 2:1)=0.15. MS (LC-MS): 224.0 [M−H]+. 1H-NMR (CDCl3, 300 MHz): δ=2.10 (p, 2H), 2.3 (s, 3H), 3.38 (s, 3H), 3.62 (t, 2H), 4.15 (t, 2H), 7.2 (d, 1H), 7.55 (s, 1H), 7.65 (d, 1H) ppm.

reactant | 3-(3-methoxy-propoxy)-4-methyl-benzoic acid methyl ester | 32.86 mmol, 7.12 g | COC(C1=CC(=C(C=C1)C)OCCCOC)=O | C13H18O4
reactant | NaOH | 100 mmol, 1 N, 100 mL | [OH-].[Na+]
solvent | EtOH | 100 mL | CCO | C2H6O
product | 3-(3-Methoxy-propoxy)-4-methyl-benzoic acid | COCCCOC=1C=C(C(=O)O)C=CC1C | C12H16O4
